US08202873B2
{4-[4-(1-Phenyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-3′-yl]-phenyl}-acetonitrile hydrochloride
Stir together 3′-chloro-4-(1-phenyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl (177 mg, 0.50 mmol), 4-(cyanomethyl)benzene boronic acid (97 mg, 0.60 mmol), potassium carbonate (166 mg, 1.20 mmol) and tetrakis(triphenylphosphine) palladium(0) (0.006 g, 0.003 mmol) and water (1 mL), in N,N-dimethylacetamide (2 mL) at room temperature under nitrogen, then heat at 120° C. for 3 hr. Cool to room temperature, add water (20 mL) and extract with DCM (3×20 mL). Pass the combined DCM extracts through an IST Phase Separator Frit®, concentrate and purify (silica gel chromatography, eluting with 5:95 to 15:85 methanol:DCM). Dry in a vacuum oven over night, then further purify by low pH reverse phase HPLC. Form the free base by passing through an SCX-2® ion exchange cartridge washing with methanol then eluting with 2 M ammonia in methanol and concentrate. Dissolve the solid in acetonitrile and convert to the hydrochloride salt by adding 2 M aq HCl solution. Add water and lyophilize to give the title compound as a bright yellow solid (136 mg, 58%). MS (ES): m/z=436 [M+H]+.

reactant | 3′-chloro-4-(1-phenyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl | 0.50 mmol, 177 mg | ClC=1C(=NC=CN1)N1CCN(CC1)CC=1C=NN(C1)C1=CC=CC=C1 | C18H19ClN6
reactant | 4-(cyanomethyl)benzene boronic acid | 0.60 mmol, 97 mg | C(#N)CC1=CC=C(C=C1)B(O)O | C8H8BNO2
reactant | potassium carbonate | 1.20 mmol, 166 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | 1 mL | O | H2O
reactant | water | 20 mL | O | H2O
solvent | N,N-dimethylacetamide | 2 mL | CN(C(C)=O)C | C4H9NO
catalyst | tetrakis(triphenylphosphine) palladium(0) | 0.003 mmol, 0.006 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | {4-[4-(1-Phenyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-3′-yl]-phenyl}-acetonitrile hydrochloride | 136 mg, 58% | Cl.C1(=CC=CC=C1)N1N=CC(=C1)CN1CCN(CC1)C1=NC=CN=C1C1=CC=C(C=C1)CC#N | InChI=1S/C26H25N7.ClH/c27-11-10-21-6-8-23(9-7-21)25-26(29-13-12-28-25)32-16-14-31(15-17-32)19-22-18-30-33(20-22)24-4-2-1-3-5-24;/h1-9,12-13,18,20H,10,14-17,19H2;1H
